US05378718
3-Ethoxy-2-(hydroxyethoxy)benzaldehyde
A mixture of 40 g of 3-ethoxysalicylaldehyde, 22 g of ethylene carbonate and 40 g of tetraethylammonium bromide was heated at 140° C. for 4 hours. After cooling to room temperature ethyl acetate was added to the reaction mixture, the solid material was filtered off, the filtrate was washed with water and the organic phase was dried over magnesium sulfate and evaporated. The residue was distilled under reduced pressure.

reactant | 3-ethoxysalicylaldehyde | 40 g | C(C)OC1=C(C(C=O)=CC=C1)O | C9H10O3
reactant | ethylene carbonate | 22 g | C1(OCCO1)=O | C3H4O3
catalyst | tetraethylammonium bromide | 40 g | [Br-].C(C)[N+](CC)(CC)CC
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-Ethoxy-2-(hydroxyethoxy)benzaldehyde | C(C)OC=1C(=C(C=O)C=CC1)OCCO | C11H14O4
